datasets/10k_Mayr_OG.csv
SMILES Labelled
"CO[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]=[C:21]2[CH:22]=[C:23](C3=CC=CC=C3)[C:24](=[O:25])[C:33](C3=CC=CC=C3)=[CH:32]2)[CH:46]=[CH:45]1.C[N:12]([C:11]1=[CH:10]CCCC1)[C:63]1=[CH:64][CH:65]=[CH:66][CH:75]=[CH:74]1>>CO[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]([CH:10]2CCCC[C:11]2=[N+:12](C)[C:63]2=[CH:64][CH:65]=[CH:66][CH:75]=[CH:74]2)[C:21]2=[CH:22][C:23](C3=CC=CC=C3)=[C:24]([O-:25])[C:33](C3=CC=CC=C3)=[CH:32]2)[CH:46]=[CH:45]1 10,11=10,20;12=11,12;20,21=21,22;22,23=23,24;24,25=25"
"CC[O:33][C:31]([C:20]1=[C:21](/[N:22]=[N:23]/[C:24](N)=[O:25])CCC1)=[O:32].C[N:12]1CC[N:62](C)[C:11]1=[NH:10]>>CC[O:33][C:31]([C:20]1([NH:10][C:11]2=[N+:12](C)CC[N:62]2C)CCC[C:21]1=[N:22][N:23]=[C:24](N)[O-:25])=[O:32] 10,11=10,20;12=11,12;20,21=21,22;22,23=23,24;24,25=25"
"C1=CC=C([N:10]=C2CCCCC2)C=C1.C[Si](C)(C)OC(C1=CC=CC=C1)(C1=CC=CC=C1)C1CCC/[N+:23]1=[CH:22]/[CH:21]=[CH:20]/[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1>>C[Si](C)(C)OC(C1=CC=CC=C1)(C1=CC=CC=C1)C1CCC[N:23]1[CH:22]=[CH:21][CH:20]([N+:10](C1=CC=CC=C1)=C1CCCCC1)[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1 10=20;20,21=21,22;22,23=23"
"CC[O:62]/[C:11](=[C:10](\C1=CC=CC=C1)[C:71]#[N:72])[O-:12].C[CH:20]=[N+:21]1C2=CC=CC=C2C2=C1C=CC=C2>>CC[O:62][C:11]([C:10](C1=CC=CC=C1)([CH:20](C)[N:21]1C2=CC=CC=C2C2=C1C=CC=C2)[C:71]#[N:72])=[O:12] 10,11=10,20;12=11,12;20,21=21"
"C[Si](C)(C)OC(C1=CC=CC=C1)(C1=CC=CC=C1)C1CCC/[N+:23]1=[CH:22]/[CH:21]=[CH:20]/[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1.FC(F)(F)[C:62]1=[C:61]([O-:10])[CH:72]=[CH:73][CH:64]=[CH:63]1>>C[Si](C)(C)OC(C1=CC=CC=C1)(C1=CC=CC=C1)C1CCC[N:23]1[CH:22]=[CH:21][CH:20]([O:10][C:61]1=[C:62](C(F)(F)F)[CH:63]=[CH:64][CH:73]=[CH:72]1)[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1 10=20;20,21=21,22;22,23=23"
"C1CN2CC[C:33]3=[CH:32][C:31]([CH+:20][C:41]4=[CH:42][C:43]5=[C:44]6N(CCC[C:45]6=[CH:46]4)CC5)=[CH:36][C:35](=[C:34]23)C1.C1C[C:11](=[CH2:10])C1>>C1C[C+:11]([CH2:10][CH:20]([C:31]2=[CH:36][C:35]3=[C:34]4N(CCC3)CC[C:33]4=[CH:32]2)[C:41]2=[CH:42][C:43]3=[C:44]4N(CCC[C:45]4=[CH:46]2)CC3)C1 10,11=10,20"
"Br[CH-:10][S:61](C1=CC=CC=C1)(=[O:62])=[O:72].CO[C:34]1=[CH:33][CH:32]=[C:31](/[CH:20]=[C:21](/C[N+]23CCN(CC2)CC3)[C:22](C)=[O:23])[CH:36]=[CH:35]1>>CO[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([CH:10](Br)[S:61](C2=CC=CC=C2)(=[O:62])=[O:72])[C:21](C[N+]23CCN(CC2)CC3)=[C:22](C)[O-:23])[CH:36]=[CH:35]1 10=20;20,21=21,22;22,23=23"
C1=CC=C([O:61][P:10]([O:71]C2=CC=CC=C2)[O:81]C2=CC=CC=C2)C=C1.CO[C:34]1=[CH:33][CH:32]=[C:31]([CH+:20][C:41]2=[CH:42][CH:43]=[C:44](OC3=CC=CC=C3)[CH:45]=[CH:46]2)[CH:36]=[CH:35]1>>CO[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([P+:10]([O:61]C2=CC=CC=C2)([O:71]C2=CC=CC=C2)[O:81]C2=CC=CC=C2)[C:41]2=[CH:42][CH:43]=[C:44](OC3=CC=CC=C3)[CH:45]=[CH:46]2)[CH:36]=[CH:35]1 10=20
"C=C(C)C[C:11](C)=[CH2:10].CC[O:33][C:22]([CH:21]=[CH2:20])=[O:23]>>C=C(C)C[C+:11](C)[CH2:10][CH2:20][CH:21]=[C:22]([O-:23])[O:33]CC 10,11=10,20;20,21=21,22;22,23=23"
"Br[C:44]1=[CH:43][CH:42]=[C:41](/[CH:20]=[CH:21]/[N+:22](=[O:23])[O-:33])[CH:46]=[CH:45]1.C/[CH:10]=[CH:11]/[CH2:62][Si:63](C)(C)C>>C[CH:10]([CH+:11][CH2:62][Si:63](C)(C)C)[CH:20]([CH:21]=[N+:22]([O-:23])[O-:33])[C:41]1=[CH:42][CH:43]=[C:44](Br)[CH:45]=[CH:46]1 10,11=10,20;20,21=21,22;22,23=23"
"CO[C:34]1=[CH:33][CH:32]=[C:31]([C+:20]([C:41]2=[CH:42][C:43](C)=[CH:44][CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:36]=[CH:35]1.C[SiH:11]([H:10])[C:62]1=[CH:63][CH:64]=[CH:65][CH:66]=[CH:67]1>>CO[C:34]1=[CH:33][CH:32]=[C:31]([C:20]([H:10])([C:41]2=[CH:42][C:43](C)=[CH:44][CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:36]=[CH:35]1.C[SiH+:11][C:62]1=[CH:63][CH:64]=[CH:65][CH:66]=[CH:67]1 10,11=10,20"
"CC[O:92][C:61]([CH-:10][N:71]=[C:72](C1=CC=CC=C1)[C:73]1=[CH:74][CH:75]=[CH:76][CH:85]=[CH:84]1)=[O:62].CN1C=C[N+](C2=C(F)C(F)=C(F)C(F)=C2F)=C1[C:22](/[CH:21]=[CH:20]/[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)=[O:23]>>CC[O:92][C:61]([CH:10]([CH:20]([CH:21]=[C:22](C1=[N+](C2=C(F)C(F)=C(F)C(F)=C2F)C=CN1C)[O-:23])[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)[N:71]=[C:72](C1=CC=CC=C1)[C:73]1=[CH:74][CH:75]=[CH:76][CH:85]=[CH:84]1)=[O:62] 10=20;20,21=21,22;22,23=23"
"C1=CC=C(O[P+](OC2=CC=CC=C2)(OC2=CC=CC=C2)[Pd-:21]23([P+](OC4=CC=CC=C4)(OC4=CC=CC=C4)OC4=CC=CC=C4)C(C4=CC=CC=C4)C2[CH2:20]3)C=C1.C[Si](C)(C)CCCC[CH:11]([H:10])[CH2:62][Si:63](C)(C)C>>C1=CC=C(O[P+](OC2=CC=CC=C2)(OC2=CC=CC=C2)[Pd-2:21]2([P+](OC3=CC=CC=C3)(OC3=CC=CC=C3)OC3=CC=CC=C3)C(C3=CC=CC=C3)C2[CH2:20][H:10])C=C1.C[Si](C)(C)CCCC[CH+:11][CH2:62][Si:63](C)(C)C 10,11=10,20;20,21=21"
"CC[O:72]/[C:11](=[CH:10]/[N+:61]#[N:62])[O-:12].C[N:43]1[C:22](=[O:23])[CH:21]=[CH:20][C:31]1=[O:32]>>CC[O:72][C:11]([CH:10]([CH:20]1[CH:21]=[C:22]([O-:23])[N:43](C)[C:31]1=[O:32])[N+:61]#[N:62])=[O:12] 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C1CC[C:22](=[O:23])[CH:21]=[CH:20]C1.[CH2-:10][N+:61]#[N:62]>>C1CC[C:22]([O-:23])=[CH:21][CH:20]([CH2:10][N+:61]#[N:62])C1 10=20;20,21=21,22;22,23=23"
